US04025528
A suspension of ethyl 2-bromo-4-methyl-5-thiazole-carboxylate (22 g), thiophenol (10.75 g) and potassium carbonate powder (24.3 g) in dimethylformamide (100 ml) is stirred. for 4 hours at 80° C. The reaction mixture is treated in the same manner as in Example 1 to give ethyl 2-phenylthio-4-methyl-5-thiazolecarboxylate (24.2 g) boiling at 160°-161° C. at 1 mmHg.

reactant | ethyl 2-bromo-4-methyl-5-thiazole-carboxylate | 22 g | BrC=1SC(=C(N1)C)C(=O)OCC | C7H8BrNO2S
reactant | thiophenol | 10.75 g | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 24.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 2-phenylthio-4-methyl-5-thiazolecarboxylate | 24.2 g | C1(=CC=CC=C1)SC=1SC(=C(N1)C)C(=O)OCC | C13H13NO2S2
